US05117000
Preparation of N-[1-(5-ethyl-2-thienyl)ethyl]-4-isopropylbenzamide:
2-Ethylthiophene (5.60 g, 0.05 mol), paraldehyde (2.20 g, 0.017 mol) and 4-isopropylbenzamide (1.63 g, 0.01 mol) were added to a mixture of formic acid (6 ml) and 85% phosphoric acid (3 ml) and stirred at a room temperature for four hours. Water (50 ml) was added to the reaction mixture. The mixture was extracted with chloroform (50 ml) and subjected to a silica gel column chromatography (eluent: chloroform) to obtain the entitled compound (2.5 g) as a viscous yellow brown liquid. Yield: 83.1%.

reactant | 2-Ethylthiophene | 0.05 mol, 5.60 g | C(C)C=1SC=CC1 | C6H8S
reactant | paraldehyde | 0.017 mol, 2.20 g | CC1OC(OC(O1)C)C | C6H12O3
reactant | 4-isopropylbenzamide | 0.01 mol, 1.63 g | C(C)(C)C1=CC=C(C(=O)N)C=C1 | C10H13NO
reactant | phosphoric acid | 3 ml | P(O)(O)(O)=O | H3O4P
solvent | Water | 50 ml | O | H2O
solvent | formic acid | 6 ml | C(=O)O | CH2O2
product | N-[1-(5-ethyl-2-thienyl)ethyl]-4-isopropylbenzamide | 2.5 g, Yield: 83.1% | C(C)C1=CC=C(S1)C(C)NC(C1=CC=C(C=C1)C(C)C)=O | C18H23NOS
